US09372281B2
1229.34 g (4.89 mol) of bis(3-chloro-2-hydroxypropyl)disulfide, 1300 g of toluene, and 800 g of methanol were put into a 10-liter reactor. The reaction temperature was adjusted to 30° C. with stirring. When the reaction temperature reached 25° C., NaOH (50% aq., 783.08 g, 9.78 mol) was added dropwise within 1 h. The reaction was carried out while maintaining a temperature of 35-37° C. After standing at 37° C. for about 30 min, 2000 g of toluene was added to the reaction mixture, followed by stirring for about 10 min. The resulting mixture was left standing for layer separation. The upper organic layer was washed twice with water, and then the water was removed as much as possible. To the organic layer was added 400 g of methanol. After stirring, thiourea (1117.65 g, 14.30 mol) and acetic anhydride (70 g) were added at a temperature of 8° C. The reaction was continued at 18° C. for 18 h. The reaction was stopped when almost all the starting materials disappeared, which was confirmed by HPLC, and the content of 2,3-epoxypropyl(2,3-epithiopropyl)disulfide reached 10%, which was confirmed by GC analysis. After completion of the reaction, stirring was stopped for layer separation. The obtained organic layer was washed three times with water and the organic solvent was removed, affording bis(2,3-epithiopropyl)disulfide (BEPDS). The product had a refractive index (nD, 20° C.) of 1.631.

reactant | bis(3-chloro-2-hydroxypropyl)disulfide | 4.89 mol, 1229.34 g | ClCC(CSSCC(CCl)O)O | C6H12Cl2O2S2
reactant | NaOH | 9.78 mol, 783.08 g | [OH-].[Na+]
reactant | thiourea | 14.30 mol, 1117.65 g | NC(=S)N | CH4N2S
reactant | acetic anhydride | 70 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,3-epoxypropyl(2,3-epithiopropyl)disulfide | O1C(CC2C(CSSCC3C(CC4CO4)S3)S2)C1 | C12H18O2S4
solvent | toluene | 2000 g | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 800 g | CO | CH4O
solvent | toluene | 1300 g | C1(=CC=CC=C1)C | C7H8
product | bis(2,3-epithiopropyl)disulfide | S1C(CSSCC2CS2)C1 | C6H10S4
